US07655666B2
2-Acetylamino-5-(tetrahydro-furan-2-yl)-4-trifluoromethyl-benzoic acid methyl ester
A solution of 2-acetylamino-5-(4,5-dihydro-furan-2-yl)-4-trifluoromethyl-benzoic acid methyl ester (13.2 g, 40.1 mmol) in dry THF (250 mL) was shaken under H2 (5 bars) at r.t. in the presence of Raney nickel. (6.0 g, B113W, Degussa) for 46 h. The reaction mixture was then filtered through a sintered funnel and the filtrate was concentrated in vacuo to give the title product (7.5 g, 100%) as a yellow oil. API-ES: m/z 332 [M+H]+.

reactant | 2-acetylamino-5-(4,5-dihydro-furan-2-yl)-4-trifluoromethyl-benzoic acid methyl ester | 40.1 mmol, 13.2 g | COC(C1=C(C=C(C(=C1)C=1OCCC1)C(F)(F)F)NC(C)=O)=O | C15H14F3NO4
solvent | THF | 250 mL | C1CCOC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 2-Acetylamino-5-(tetrahydro-furan-2-yl)-4-trifluoromethyl-benzoic acid methyl ester | 7.5 g, 100% | COC(C1=C(C=C(C(=C1)C1OCCC1)C(F)(F)F)NC(C)=O)=O | C15H16F3NO4
